US07307097B2
To a solution of 5-amino-1-tert-butyl-3-(4-nitro-phenyl)-1H-pyrazole-4-carbonitrile (2.85 g, 10 mmol) in 40 mL of tetrahydrofuran were added a 30% aqueous solution of hydrogen peroxide (80 mL), a 1 M solution of sodium hydroxide (20 mL) and 3 g of tetrabutylammonium hydrogensulfate. The reaction mixture was stirred for 48 hours at room temperature and extracted with ethyl acetate (2×200 mL). The organic layers were combined, washed with brine, dried over solid MgSO4, filtered and evaporated. The yellow residue was purified by normal phase silica column chromatography (100% ethyl acetate) to give 750 mg of pure 5-amino-1-tert-butyl-3-(4-nitro-phenyl)-1H-pyrazole-4-carboxylic acid amide. 1H-NMR (DMSO-d6): ppm 1.54 (s, 9H), 6.11 (br s, 2H), 7.81 (d, 2H, J=7.6 Hz), 8.22 (d, 2H, J=7.6 Hz). LC MS (m/e)=304.2 (MH+).

reactant | 5-amino-1-tert-butyl-3-(4-nitro-phenyl)-1H-pyrazole-4-carbonitrile | 10 mmol, 2.85 g | NC1=C(C(=NN1C(C)(C)C)C1=CC=C(C=C1)[N+](=O)[O-])C#N | C14H15N5O2
reactant | hydrogen peroxide | 80 mL | OO | H2O2
reactant | sodium hydroxide | 20 mL | [OH-].[Na+]
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
catalyst | tetrabutylammonium hydrogensulfate | 3 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 5-amino-1-tert-butyl-3-(4-nitro-phenyl)-1H-pyrazole-4-carboxylic acid amide | 750 mg | NC1=C(C(=NN1C(C)(C)C)C1=CC=C(C=C1)[N+](=O)[O-])C(=O)N | C14H17N5O3
